US08877744B2
The reaction of (R)-6,6-difluoro-5-[2-fluoro-5-(2-methyl-thiazol-4-ylethynyl)-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-one (178 mg, 436 μmol) with Lawesson's reagent (182 mg, 436 μmol) in 1,4-dioxane (8 ml) yielded the (R)-6,6-difluoro-5-[2-fluoro-5-(2-methyl-thiazol-4-ylethynyl)-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-thione (175 mg, 94% yield) as a light yellow foam. MS (ISP): m/z=425.1 [M+H]+ and 427.1 [M+2+H]+.

reactant | (R)-6,6-difluoro-5-[2-fluoro-5-(2-methyl-thiazol-4-ylethynyl)-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-one | 436 μmol, 178 mg | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)C#CC=1N=C(SC1)C)F)F | C20H19F3N2O2S
reactant | Lawesson's reagent | 436 μmol, 182 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | (R)-6,6-difluoro-5-[2-fluoro-5-(2-methyl-thiazol-4-ylethynyl)-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 175 mg, 94% yield | FC1([C@@](NC(COC1(C)C)=S)(C)C1=C(C=CC(=C1)C#CC=1N=C(SC1)C)F)F | C20H19F3N2OS2
